US06166064
1-(1,2,3,5,6,7-Hexahydro-s-indacen-4-yl)-ethanone
To a stirred solution of 1,2,3,5,6,7-Hexahydro-s-indacene (30 grams) and acetyl chloride (14.2 mL) in 120 mL of benzene at 0° C. was added 30 grams of aluminum chloride over a period of 1 hour. The cooling bath was removed and the solution was warmed to room temperature and stirred for 4 hours. The deep red mixture was then poured onto a mixture of 270 grams of ice and 50 mL of concentrated hydrochloric acid. The layers were separated and the aqueous phase was extracted with diethyl ether. The combined organic phases were washed with saturated sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford an orange solid which was recrystallized from hexane to give 34 grams of the title compound, m.p. 69.1-76.1° C.

reactant | 1,2,3,5,6,7-Hexahydro-s-indacene | 30 grams | C1CCC2=CC=3CCCC3C=C12 | C12H14
reactant | acetyl chloride | 14.2 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 30 grams | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
product | 1-(1,2,3,5,6,7-Hexahydro-s-indacen-4-yl)-ethanone | 34 grams | C1CCC2=C(C=3CCCC3C=C12)C(C)=O | C14H16O
